US06872740B2
A mixture of 0.72 g of N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(2-thien-3-yl-ethyl)ethyl]-thiourea in 20 mL of aqueous solution of 5N hydrochloric acid is heated under magnetic stirring at a temperature of about 100° C. for 18 hours. The reaction medium is then evaporated under reduced pressure (2 kPa) at a temperature of about 40° C. and the residue obtained is taken up in 20 mL of ethanol and concentrated again according to the conditions described above. The evaporating residue is taken up in 5 mL of ethanol, filtered, washed with 2 times 2 mL of ethanol and with 2 times 5 mL of ethyl ether. The product is dried in an oven under vacuum (10 Pa) at a temperature of about 20° C. About 0.28 g of (4R)-4-(2-thien-3-ylethyl)-4,5-dihydro-1,3-thiazol-2-ylamine, chlorhydrateare are obtained in the form of a colored-beige solid melting at 150° C. [1H NMR spectrum (300 MHz, (CD3)2SO d6, δ in ppm): from 1.85 to 2.10 (mt, 2H); 2.70 (mt, 2H); from 3.30 to 3.45 (mt, 1H); 3.69 (dd, J=11 and 7.5 Hz, 1H); 4.21 (mt, 1H); 7.05 (dd, J=5 and 1.5 Hz, 1H); 7.26 (mt, 1H); 7.50 (dd, J=5 and 3 Hz, 1H); 9.10 (mf, 1H); 9.61 (mf, 1H); 10.27 (s large, 1H)].

reactant | N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(2-thien-3-yl-ethyl)ethyl]-thiourea | 0.72 g | C(C)(C)(C)NC(=S)N[C@@H](CO)CCC1=CSC=C1 | C13H22N2OS2
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (4R)-4-(2-thien-3-ylethyl)-4,5-dihydro-1,3-thiazol-2-ylamine | 0.28 g | S1C=C(C=C1)CC[C@H]1N=C(SC1)N | C9H12N2S2
